US08202865B2
Step 1: 4-chloro-3-(3-methoxyprop-1-yn-1-yl)benzoic acid
Methyl propargyl ether (Fluka; 68898; 1.27 mL; 15 mmol; 1.50 eq.) was added dropwise to a suspension of 4-chloro-3-iodobenzoic acid (ABCR; TWC2211-D1; 2 824.60 mg; 10 mmol; 1 eq.), dichlorobis(triphenylphosphine)palladium(II) (701.91 mg; 1 mmol; 0.10 eq.) and cuprous iodide (190.45 mg; 1 mmol; 0.10 eq.) in a mixture of THF (20 mL) and triethylamine (10 mL). The reaction was stirred at RT for 2 h. The reaction mixture was quenched with saturated aqueous NH4Cl, and extracted twice with EtOAc. The combined extract were evaporated under vacuo to afford an orange solid. The latter was dissolved in EtOAc and extracted 4 times with NaOH 0.1M. Then the aqueous layer was filtered, acidified to pH=3-4 with HCl 1M, and extracted with EtOAc. The combined organic layers were dried over magnesium sulfate, filtered and concentrated to afford the title compound as a slightly orange powder. 1H NMR (DMSO-d6, 300 MHz) δ 13.42 (br. s., 1H), 8.03 (d, J=2.07 Hz, 1H), 7.92 (dd, J=2.17, 8.38 Hz, 1H), 7.71 (d, J=8.48 Hz, 1H), 4.41 (s, 2H), 3.19-3.37 (m, 3H). LC/MS (Method B): 223.0 (M−H)−. HPLC (Method A) Rt 3.51 min (Purity: 98.8%).

reactant | Methyl propargyl ether | 15 mmol, 1.27 mL, 1.50 eq. | C(C#C)OC | C4H6O
reactant | 4-chloro-3-iodobenzoic acid | 10 mmol, 824.60 mg, 1 eq. | ClC1=C(C=C(C(=O)O)C=C1)I | C7H4ClIO2
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | triethylamine | 10 mL | C(C)N(CC)CC | C6H15N
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | dichlorobis(triphenylphosphine)palladium(II) | 1 mmol, 701.91 mg, 0.10 eq. | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 4-chloro-3-(3-methoxyprop-1-yn-1-yl)benzoic acid | ClC1=C(C=C(C(=O)O)C=C1)C#CCOC | C11H9ClO3
